US04886913
Into a one liter glass resin kettle equipped with an air-driven stirrer, a pressure-equalizing dropping funnel with Teflon® tube for subsurface addition, a thermometer and a dry ice/acetone cooled condenser was added 66.5 grams (0.50mole) of 2-methyl-2-(methylthio) propionaldehyde oxime and 266 milliliters of water. After the mixture was cooled to a temperature of 5° C. with a salt/water/ice bath, 0.52 grams (0.005mole) of triethylamine was added to the kettle under a nitrogen atmosphere. A stoichiometric amount of methyl isocyanate (29.5 milliliters, 0.50 mole) was then added in a slow stream subsurface over a period of 30 minutes at a temperature of 5° C.-12° C. with vigorous stirring. The mixture was stirred for an additional 45 minutes at a temperature of 10° C.-20° C. after which the reaction mixture was transferred to a Waring Blendor® using water to flush out the resin kettle. The mixture was then blended at high speed for a period of 30 seconds to give uniformly small particles after which an additional 3.0 milliliters (0.05 mole) of methyl isocyanate was added as the mixture was blended at high speed for another 30 second period. The reaction temperature rose to 21° C. The reaction mixture was then transferred back into the glass resin kettle and 1.0 milliliter (0.02 mole) of methyl isocyanate was added with vigorous stirring at a temperature of 20° C. The mixture was then stirred for a period of 30 minutes after which 2.9 grams of phosphoric acid in 10 milliliters of water was added in a slow stream subsurface. The resulting solid product was filtered off on a sintered glass funnel to give 97.88 grams (wet weight) of a fine white powder. High pressure liquid chromatographic analysis (internal standard) indicated the following: 91.88 percent 2-methyl-2-(methylthio) propionaldehyde O-(methylcarbamoyl) oxime (87.9 percent yield based on aldicarb oxime) and 0.34 percent 2-methyl-2-(methylthio) propionaldehyde oxime; 12.66 percent water content was determined by Karl Fischer titration.

reactant | methyl isocyanate | 0.02 mole, 1.0 milliliter | CN=C=O | C2H3NO
reactant | phosphoric acid | 2.9 grams | P(O)(O)(O)=O | H3O4P
reactant | 2-methyl-2-(methylthio) propionaldehyde oxime | CC(C=NO)(C)SC | C5H11NOS
solvent | water | 10 milliliters | O | H2O
product | 2-methyl-2-(methylthio) propionaldehyde O-(methylcarbamoyl) oxime | 87.9 percent yield | CNC(=O)ON=CC(C)(SC)C | C7H14N2O2S
